US07196197B2
Preparation of 5-bromo-2-(2,2,2-trifluoroethoxy)benzoic acid
To a solution of 2-(2,2,2-trifluoroethoxy)benzoic acid (22 g) in methylene chloride (100 ml), was added AlCl3 (13.3 g) at 0° C.followed by bromine (16.0 g, 0.1 mol). The reaction mixture was stirred at 0° C. for 1 hour and then at reflux for 2 hours. The solids were filtered and water (50 ml) and ethyl acetate (50 ml) were added to the filtrate. The aqueous layer was separated and extracted with ethyl acetate (2×60 ml) and the combined organic layers were washed with water (2×60 ml). The organic layer was concentrated under vacuum to dryness and hexane (100 ml) was added and the resulting suspension was stirred at 20 to 25° C. for 1 hour. The mixture was filtered and the cake was rinsed with heptanes (2×20 ml). The damp solids were dried in vacuum at 45° C. for 5–6 hours to give a white solid (28.3 g, yield 94.6%), m.p. 126–128° C.

reactant | 2-(2,2,2-trifluoroethoxy)benzoic acid | 22 g | FC(COC1=C(C(=O)O)C=CC=C1)(F)F | C9H7F3O3
reactant | AlCl3 | 13.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | bromine | 0.1 mol, 16.0 g | BrBr | Br2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-(2,2,2-trifluoroethoxy)benzoic acid | 28.3 g, yield 94.6% | BrC=1C=CC(=C(C(=O)O)C1)OCC(F)(F)F | C9H6BrF3O3
